US09388183B2
To a stirred solution of phenylmethanol (3.35 g, 31 mmol, 1.2 eq) in THF (80 mL), NaH (60% dispersion in mineral oil, 1.34 g, 33.5 mmol, 1.3 eq) is added in portions. The resulting mixture is stirred at RT for 30 min and then 8-bromo-6-chloroimidazo[1,2-b]pyridazine (D-3) (6 g, 25.8 mmol, 1.0 eq) is added. The resulting mixture is stirred at RT for an additional 2 h and then poured into water (30 mL). The mixture is extracted with ethyl acetate (2×100 mL). The combined organic layers are washed with brine, dried over Na2SO4 and filtered. The filtrate is concentrated in vacuo to afford the product, 8-(benzyloxy)-6-chloroimidazo[1,2-b]pyridazine (D-4).

reactant | phenylmethanol | 31 mmol, 3.35 g, 1.2 eq | C1(=CC=CC=C1)CO | C7H8O
reactant | NaH | 33.5 mmol, 1.34 g, 1.3 eq | [H-].[Na+]
reactant | 8-bromo-6-chloroimidazo[1,2-b]pyridazine | 25.8 mmol, 6 g, 1.0 eq | BrC=1C=2N(N=C(C1)Cl)C=CN2 | C6H3BrClN3
reactant | water | 30 mL | O | H2O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 8-(benzyloxy)-6-chloroimidazo[1,2-b]pyridazine | C(C1=CC=CC=C1)OC=1C=2N(N=C(C1)Cl)C=CN2 | C13H10ClN3O
